US06762180B1
(14) 3-Z-[1-(4-(N-methyl-methylsulphonylamino)-anilino)-1-phenyl-methylene]-6-ethoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-ethoxycarbonyl-2-indolinone and N-(4-aminophenyl)-N-methyl-methanesulphonamide Rf value: 0.8 (aluminium oxide, ethyl acetate) C26H25N3O5S

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-ethoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OCC)=C(C1=CC=CC=C1)OCC)=O | C22H21NO5
reactant | N-(4-aminophenyl)-N-methyl-methanesulphonamide | NC1=CC=C(C=C1)N(S(=O)(=O)C)C | C8H12N2O2S
product | 3-Z-[1-(4-(N-methyl-methylsulphonylamino)-anilino)-1-phenyl-methylene]-6-ethoxycarbonyl-2-indolinone | CN(C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OCC)=O)C=C1)S(=O)(=O)C | C26H25N3O5S
